Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Doxycycline / Penicillins / Penicillins / acetaminophen
 
Attending: ___
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ incarcerated male with a PMHx of 
seizures
(seen by Dr. ___ in ___ thought to have juvenile
myoclonic seizures) as well as PSA (benzos, opiates) and
benzodiazepine-seeking behaviors who presents with 6 
seizure-like
episodes. 

On ___, he reports that he stopped taking Ativan in an
effort to wean himself down. On ___, he was
incarcerated. On ___, he had a seizure-like episode in
court. Hospitalized on ___ ___) for benzo
withdrawal. Did EEG at that time, but it was reportedly normal.
Woke up on ___ morning with metallic taste in his
mouth, which he experienced intermittently. Then, on ___, he
again awoke with the metallic taste. Beginning at 7:30pm on
___, he had 5 seizures in 10 minutes witnessed by the medical
officer and nurses; the longest event lasted 2.5 minutes. The
patient and officers with him cannot describe the semiology of
these events. They got him off the bed and pulled him to floor.

He had an additional seizure in the ambulance. This was 
witnessed
by the officer; it was characterized by stiffening of all four
limbs, eyes fluttering, facial redness, slouching to the right
with ?head version to right for 25 seconds followed by a few
minutes of lethargy. He was subsequently back at baseline. He 
was
given 2mg IM Ativan. No rhythmic shaking, no eye deviation,  no
tongue biting, no mouth frothing, no incontinence.

Diagnosed with epilepsy "a few years ago," patient Metallic 
taste
back of mouth and sometimes involuntary muscle twitches of whole
body typically precede seizures. Typical seizures include
whole-body clenching and tongue biting. Baseline frequency: a 
few
times a year. No injuries, trauma. No hx childhood seizues.
Delivery normal. Milestones at correct times. Evaluated and
diagnosed at ___ Hospital with epilepsy, per patient. 

Reports having benzo and suboxone withdrawal symptoms since
___. Tremors, double vision, anxiety, muscles aches. 
Feels like he's developing a benzo tolerance. Does not recall
prior history of EEGs except one done from recent admission at
___. 

As mentioned above, the patient states that he has not had 
Ativan
since ___. Patient has not had any Lamictal or gabapentin since
___, he says (except ___ and ___ in hospital). Additionally,
he received a dose of Lamictal on ___.

Metallic taste "a little bit." On neuro ROS, the pt denies
headache, loss of vision, blurred vision, diplopia, dysarthria,
dysphagia, lightheadedness, vertigo, tinnitus, and hearing
difficulty. Denies difficulties producing or comprehending
speech.  Denies focal weakness, numbness, and parasthesiae. No
bowel or bladder incontinence or retention. Denies difficulty
with gait.

Currently, whole body soreness and head throbbing. Recent
infections: "bronchitis" and "ear infection." On general review
of systems, the pt denies recent fever or chills. No night 
sweats
or recent weight loss or gain. Denies cough, shortness of 
breath.
Denies chest pain or tightness, palpitations.  Denies nausea,
vomiting, diarrhea, constipation, or abdominal pain.  No recent
change in bowel or bladder habits. No dysuria. Denies 
arthralgias
or myalgias. Denies rash.

 
Past Medical History:
*S/P APPY, HERNIA REPAIR                                        

ACNE                                                            

DEPRESSION / ANXIETY                                            

Substance use disorder (opiates including heroin--not since ___
per patient and benzos)

Syphilis (per patient; not in OMR)

Seizures

 
Social History:
___
Family History:
Lung CA--mat GM. No FHx seizures.   
 
Physical Exam:
On admission: 
Physical Exam:
97.7F 68 ___ 99RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 6 to 5mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

On discharge: no change from admission exam
 
Pertinent Results:
___ 07:08AM   PLT COUNT-197
___ 07:08AM   NEUTS-39.7 ___ MONOS-11.2 EOS-5.5 
BASOS-0.8 IM ___ AbsNeut-3.29 AbsLymp-3.54 AbsMono-0.93* 
AbsEos-0.46 AbsBaso-0.07
___ 07:08AM   WBC-8.3 RBC-4.60 HGB-13.9 HCT-40.7 MCV-89 
MCH-30.2# MCHC-34.2# RDW-12.7 RDWSD-41.1
___ 07:08AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-POS barbitrt-NEG tricyclic-NEG
___ 07:08AM   estGFR-Using this
___ 07:08AM   GLUCOSE-82 UREA N-9 CREAT-0.6 SODIUM-140 
POTASSIUM-3.9 CHLORIDE-107 TOTAL CO2-23 ANION GAP-14
___ 07:16AM   LACTATE-1.0
___ 04:10PM   LACTATE-5.1*

___ EEG: This is a normal continuous video EEG study that 
captures 
wakefulness and sleep. There are no epileptiform discharges or 
electrographic seizures. There are two pushbutton activations 
during this recording that are both system tests. 

 
Brief Hospital Course:
Mr. ___ is a ___ man with a PMHx of seizure-like 
episodes (?JME) and substance use disorder (opiates, benzos) who 
presents with 6 seizure-like episodes. Possible etiologies 
seizures from being off his medications, toxic-metabolic causes, 
infection, or benzodiazepine withdrawal. Alternatively, 
secondary gain to avoid incarceration versus PNES are also on 
the differential. He was hooked up to continuous video EEG where 
no seizures were captured. He also underwent photic stimulation 
and hyperventilation that again showed no changes in EEG. He was 
restarted on his home gabapentin, suboxone, and lamictal during 
his hospitalization, and he did well. 

Director on hand at jail: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL TID 
2. Gabapentin 800 mg PO QID 
3. QUEtiapine Fumarate 200 mg PO QHS 
4. FLUoxetine 60 mg PO QAM 
5. LORazepam 2 mg PO BID 
6. LamoTRIgine 150 mg PO BID 

 
Discharge Medications:
1. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL TID 
2. FLUoxetine 60 mg PO QAM 
3. Gabapentin 800 mg PO QID 
4. LamoTRIgine 300 mg PO QPM 
5. QUEtiapine Fumarate 200 mg PO QHS 
6. FoLIC Acid 1 mg PO DAILY 
7. Nicotine Patch 14 mg TD DAILY 
8. Omeprazole 40 mg PO DAILY 
9. Polyethylene Glycol 17 g PO DAILY 
10. Thiamine 100 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
seizure-like episode

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neuro: non-focal

 
Discharge Instructions:
Dear Mr. ___,

You were admitted for an increase in frequency of your events 
that typically begin with a metallic taste. You had this 
sensation while hooked up to EEG, and there were no 
electrographic seizures seen. You were restarted on your home 
lamotrigine 300mg po every evening and gabapentin 800mg 4 times 
per day. You were also restarted on your suboxone. As you had no 
further seizures and no seizures were captures on EEG, you were 
discharged.

It was a pleasure taking care of you, and we wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___